US04769373
The starting substance is prepared as follows: To 1000 g of Klinosorb-4 molecular sieve 1000 ml of dry diethyl ether, 226 g of 1-methyl-4-piperidone and 219 g of dry diethylamine are added. The reaction mixture is kept at room temperature for 4 days and then filtered off. The Klinosorb-4 is washed with ether, the filtrate and the washing are combined, the solvent is distilled off and the residue is purified by distillation in vacuo to give 1-methyl-4-diethylamino-1,2,5,6-tetrahydropyridine with a yield of 59.9%, bp.: 88°-106° C./1.5 kPa; nD20 =1.4825.

reactant | 1-methyl-4-piperidone | 226 g | CN1CCC(CC1)=O | C6H11NO
reactant | diethylamine | 219 g | C(C)NCC | C4H11N
solvent | diethyl ether | 1000 ml | C(C)OCC | C4H10O
product | 1-methyl-4-diethylamino-1,2,5,6-tetrahydropyridine | yield of 59.9% | CN1CC=C(CC1)N(CC)CC | C10H20N2
